US05236952
1.5 g of 2-(3,4-dimethoxy-5-nitrophenyl)pyridine are dissolved in 30 ml of 48 percent aqueous hydrobromic acid. The reaction mixture is stirred at 100° for 16 hours and at 23° for 18 hours. The precipitate which thereby forms is filtered and recrystallized from methanol/ether. There is obtained 3-nitro-5-(2-pyridyl)pyrocatechol hydrobromide of m.p. 230°-240°.

reactant | 2-(3,4-dimethoxy-5-nitrophenyl)pyridine | 1.5 g | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C1=NC=CC=C1 | C13H12N2O4
reactant | hydrobromic acid | 30 ml | Br | BrH
product | 3-nitro-5-(2-pyridyl)pyrocatechol hydrobromide | Br.[N+](=O)([O-])C1=C(C(O)=CC(=C1)C1=NC=CC=C1)O | InChI=1S/C11H8N2O4.BrH/c14-10-6-7(8-3-1-2-4-12-8)5-9(11(10)15)13(16)17;/h1-6,14-15H;1H
